US06638685B2
The synthesis was carried out under radiation from a yellow lamp. The synthesis was similar to the “Synthesis 5” except that the potassium trifluoromethanesulfonate and the 2-oxo-3,3-dimethylbutyl-thiacyclopentanium bromide were replaced with potassium nonafluorobutanesulfonate and 2-oxo-3,3,-dimethylbutyl-thiacyclopentanium bromide, respectively. The present inventors obtained 2-oxo-3,3-dimethylbutyl-thiacyclopentanium nonafluorobutanesulfonate. The yield was 52%, and the melting point was 79.5 degrees in centigrade.

reactant | potassium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.[K+]
reactant | 2-oxo-3,3-dimethylbutyl-thiacyclopentanium bromide | [Br-].O=C(C[S+]1CCCC1)C(C)(C)C
reactant | potassium nonafluorobutanesulfonate | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.[K+]
product | 2-oxo-3,3-dimethylbutyl-thiacyclopentanium nonafluorobutanesulfonate | yield was 52% | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.O=C(C[S+]1CCCC1)C(C)(C)C | InChI=1S/C10H19OS.C4HF9O3S/c1-10(2,3)9(11)8-12-6-4-5-7-12;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h4-8H2,1-3H3;(H,14,15,16)/q+1;/p-1
